US05847122
A mixture of (2R,3S)-3-(4-methoxyphenyl)-2,3-epoxypropionamide and xylene is refluxed with heating under nitrogen atmosphere. When the reflux is started, a solution of 2-(2-dimethylaminoethylamino)thiophenol and ferrous sulfate heptahydrate in methanol is added immediately into the reaction mixture, and the mixture is reacted at the same temperature, and cooled to room temperature. The reaction mixture is concentrated under reduced pressure, and the residue is dissolved with heating in ethanol and water. The mixture is allowed to cool to 0° C., and the precipitated crystals are collected by filtration, washed with chilled 50% ethanol, and dried to give (2S,3S)-3-[2-(2-dimethylaminoethylamino)phenylthio]-2-hydroxy-3-(4-methoxyphenyl)propionamide.

reactant | (2R,3S)-3-(4-methoxyphenyl)-2,3-epoxypropionamide | COC1=CC=C(C=C1)[C@H]1[C@H](C(=O)N)O1 | C10H11NO3
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | 2-(2-dimethylaminoethylamino)thiophenol | CN(CCNC1=C(C=CC=C1)S)C | C10H16N2S
solvent | methanol | CO | CH4O
product | (2S,3S)-3-[2-(2-dimethylaminoethylamino)phenylthio]-2-hydroxy-3-(4-methoxyphenyl)propionamide | CN(CCNC1=C(C=CC=C1)S[C@H]([C@H](C(=O)N)O)C1=CC=C(C=C1)OC)C | C20H27N3O3S
